US05478858
To a solution of 1 -tert-butoxycarbonyl-4-methyl-5-(2-imidazolinylamino)benzimidazole (2.40 g) in glacial acetic acid (50 mL) is added a solution of hydrobromic acid in glacial acetic acid (30%, 6 mL). The mixture is stirred at room temperature and gas evolution is monitored. After the gas evolution has stopped (about 1 hour), the precipitate is filtered and washed with ether. The solid is recrystallized from methanol/ether and dried in vacuo to afford 4-methyl-5-(2-imidazolinylamino)benzimidazole dihydrobromide as a pale rose solid.

reactant | 1 -tert-butoxycarbonyl-4-methyl-5-(2-imidazolinylamino)benzimidazole | 2.40 g | C(C)(C)(C)OC(=O)N1C=NC2=C1C=CC(=C2C)NN2C=NCC2 | C16H21N5O2
reactant | hydrobromic acid | Br | BrH
solvent | acetic acid | 50 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 6 mL | C(C)(=O)O | C2H4O2
product | 4-methyl-5-(2-imidazolinylamino)benzimidazole dihydrobromide | Br.Br.CC1=C(C=CC=2N=CNC21)NN2C=NCC2 | InChI=1S/C11H13N5.2BrH/c1-8-9(15-16-5-4-12-7-16)2-3-10-11(8)14-6-13-10;;/h2-3,6-7,15H,4-5H2,1H3,(H,13,14);2*1H
